US06803370B2
A mixture of 2,4-dihydroxy-3-iodopyridine(1.0 eq), Cs2CO3 (2.0 eq), MeI (10.0 eq) and anhydrous DMF was stirred at 40° C. for 72 h, and then the DMF and remaining MeI were evaporated. The residue was treated with aqueous NaS2O3, and the mixture was extracted five times with CH2Cl2. The CH2Cl2 extracts were treated with MgSO4, filtered, and evaporated. The residue was recrystallized from hexanes/CH2Cl2 to give 1-methyl-3-iodo4-methoxypyridin-2-one.

reactant | 2,4-dihydroxy-3-iodopyridine | 1.0 eq | OC1=NC=CC(=C1I)O | C5H4INO2
reactant | Cs2CO3 | 2.0 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | MeI | 10.0 eq | CI | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-methyl-3-iodo4-methoxypyridin-2-one | CN1C(C(=C(C=C1)OC)I)=O | C7H8INO2
